.START
..refdes	device	value	footprint	quantity
CONN1	CONNECTOR	unknown	3WIRES	1
U1	DIODE-BRIDGE	unknown	unknown	1
F1	FUSE	unknown	fuseholder-5mm	1
U2	LM317	LM317	TO-220	1
C2	POLARIZED_CAPACITOR	0.1uF	unknown	1
C4	POLARIZED_CAPACITOR	1uf	unknown	1
C1	POLARIZED_CAPACITOR	2200uF	unknown	1
C3	POLARIZED_CAPACITOR	22uF	unknown	1
R2	RESISTOR	220	0402	1
R1	RESISTOR	5k	unknown	1
S1	SWITCH	unknown	none	1
T1	TRANSFORMER	unknown	none	1
.END
